* Z:\home\maximilian\LTSpice\Coildriver\OpenDrainDriver.asc
V1 N001 0 20
V2 N007 0 PULSE(0 5 0 10e-8 10e-8 10e-3 20e-3)
M1 N009 N005 0 0 IRF6609
M3 N002 N005 N009 N009 FDS4465
R1 N005 N008 100
R2 N003 N004 2
L1 N001 N003 2mH
V3 N002 0 5
M4 N004 N010 0 0 IRF6609
D1 N004 N001 MBRB2545CT
R3 N010 N009 1
A1 0 N006 0 N007 0 N008 0 0 AND Vhigh=5V
R4 N002 N006 10k
V4 N011 0 PULSE(0 5 50e-3 10e-8 10e-8 30e-3 40e-3 1)
M2 N006 N011 0 0 IRF6609
.model D D
.lib C:\users\maximilian\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\maximilian\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 100ms
.backanno
.end
